US05055451
(2,6-Dimethyl-terephthalic Acid)
2,4,6-Trimethylbenzoic acid (mesitoic acid) (10 g, 61 mmol) was suspended in 150 mL of water, and the mixture cooled to 0° C. Sodium hydroxide pellets (7.31 g, 0.18 mol) were gradually added, followed by addition of potassium permanganate (4×7.2 g, 0.18 mol) at four intervals of 30 minutes. The mixture was stirred at room temperature for 2 hours, then heated on a steam bath for 15-30 minutes. Sulfuric acid (200 mL, 9 mol) was added, then sodium bisulfite was carefully and gradually added at 0° C. The precipitated white solid was filtered and then dissolved in 5 N ammonium hydroxide. The solution was washed with diethyl ether, then gradually treated dropwise with concentrated sulfuric acid to precipitate the product. Filtration, followed by washing with hot water (4×) and petroleum ether (3×), recrystallization (methanol-water), and drying at high vacuum gave 10.5 g (89%) of the product as a white solid, m.p. >300° C. (ref. W. A. Noyes, Amer. Chem. J., 20, 789 (1898)).

reactant | 2,4,6-Trimethylbenzoic acid | 61 mmol, 10 g | CC1=C(C(=O)O)C(=CC(=C1)C)C | C10H12O2
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | potassium permanganate | 0.18 mol, 7.2 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | Sulfuric acid | 9 mol, 200 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | water | 150 mL | O | H2O
product | 2,6-Dimethyl-terephthalic Acid | 10.5 g, 89% | CC1=C(C(=O)O)C(=CC(=C1)C(=O)O)C | C10H10O4
